US05883106
C. 4-Cyano-4-[3-[4-(1,2,4-triazol-4-yl)phenyl]thiophenyl]-3,4,5,6-tetrahydro-2H-pyran
The titled compound was prepared according to the procedure described in example 29E for the preparation of (2SR,4RS)-4-cyano-2-methyl-4-[3-[4-(2-methylimidazol-1-yl)phenylthio]phenyl]-3,4,5,6-tetrahydro-2H-pyran using 4-(triazol-4-yl)phenyl iodide and 4-cyano-4-(3-triisopropylsilylthiophenyl)-3,4,5,6-tetrahydro-2H-pyran in place of 4-(2-methylimidazol-1-yl)phenyl iodide and (2SR,4RS)-4-cyano-2-methyl-4-(3-triisopropylsilylthiophenyl)-3,4,5,6-tetrahydro-2H-pyran, respectively. MS(EI):m/z 362(M+)

reactant | (2SR,4RS)-4-cyano-2-methyl-4-[3-[4-(2-methylimidazol-1-yl)phenylthio]phenyl]-3,4,5,6-tetrahydro-2H-pyran | C(#N)C1(CC(OCC1)C)C1=CC(=CC=C1)SC1=CC=C(C=C1)N1C(=NC=C1)C | C23H23N3OS
reactant | 4-(triazol-4-yl)phenyl iodide | N1N=NC(=C1)C1=CC=C(C=C1)I | C8H6IN3
reactant | 4-cyano-4-(3-triisopropylsilylthiophenyl)-3,4,5,6-tetrahydro-2H-pyran | C(#N)C1(CCOCC1)C1=CC(=CC=C1)S[Si](C(C)C)(C(C)C)C(C)C | C21H33NOSSi
reactant | (2SR,4RS)-4-cyano-2-methyl-4-(3-triisopropylsilylthiophenyl)-3,4,5,6-tetrahydro-2H-pyran | C(#N)C1(CC(OCC1)C)C1=CC(=CC=C1)S[Si](C(C)C)(C(C)C)C(C)C | C22H35NOSSi
product | 4-Cyano-4-[3-[4-(1,2,4-triazol-4-yl)phenyl]thiophenyl]-3,4,5,6-tetrahydro-2H-pyran | C(#N)C1(CCOCC1)C1=CC(=CC=C1)SC1=CC=C(C=C1)N1C=NN=C1 | C20H18N4OS
